US06518283B1
Ethyl (S)-3-{4-[(2,6-naphthyridin-1-yl)amino]phenyl}-2-[N-(t-butyloxycarbonyl)amino]propanoate
Ethyl (S)-3-(4-aminophenyl)-2-[N-(t-butyloxycarbonyl)amino]propanoate (600 mg, 1.95 mmol), Intermediate 5 (350 mg, 2.13 mmol) and DIPEA (276 mg, 372 μl, 2.13 mmol) in 2-ethoxyethanol (0.5 ml) were stirred at 130° under N2 for several hours. The reaction was partitioned between EtOAc (70 ml) and saturated aqueous NaHCO3 (30 ml). The phases were separated and the aqueous layer re-extracted with EtOAc (3×30 ml). The combined organic extracts were washed with brine (10 ml), dried (MgSO4) and evaporated in vacuo to afford a dark oil. Chromatography (SiO2; 3% MeOH/DCM) gave the title compound as a dull orange foam (360 mg, 42%). δH (CDCl3) 9.19 (1H, s), 8.67 (1H, d, J 5.9 Hz), 8.24 (1H, d, J 5.8 Hz), 7.66 (1H, d, J 5.9 Hz), 7.65 (2H, d, J 8.5 Hz), 7.21 (1H, d, J 5.8 Hz), 7.16 (2H, d, J 8.5 Hz), 7.15 (1H, obscured s), 5.05-4.97 (1H, m), 4.60-4.51 (1H, m), 4.19 (2H, q, J 7.1 Hz), 3.17-3.04 (2H, m), 1.44 (9H, s), 1.27 (3H, t, J 7.1 Hz); m/z (ES+, 70V) 459 (MNa+), 437 (MH+).

reactant | Ethyl (S)-3-(4-aminophenyl)-2-[N-(t-butyloxycarbonyl)amino]propanoate | 1.95 mmol, 600 mg | NC1=CC=C(C=C1)C[C@@H](C(=O)OCC)NC(=O)OC(C)(C)C | C16H24N2O4
reactant | DIPEA | 2.13 mmol, 372 μl, 276 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | MeOH DCM | CO.C(Cl)Cl
solvent | 2-ethoxyethanol | 0.5 ml | C(C)OCCO | C4H10O2
product | Ethyl (S)-3-{4-[(2,6-naphthyridin-1-yl)amino]phenyl}-2-[N-(t-butyloxycarbonyl)amino]propanoate | 360 mg, 42% | C1(=NC=CC2=CN=CC=C12)NC1=CC=C(C=C1)C[C@@H](C(=O)OCC)NC(=O)OC(C)(C)C | C24H28N4O4
